US06313312B1
5-(3-Hexyl-6-methyl-3-azabicyclo[3.1.0]hex-6-yl)-2-nitrophenylamine
To a solution of potassium hydroxide (100 mg, 1.79 nrnol) in methanol (5.0 ml) and water 2.0 ml) was added N-[5-(3-hexyl-6-methyl-3-azabicyclo[3.1.0]hex-6-yl)-2-nitrophenyl]acetamide (Preparation 46, 534 mg, 1.49 mmol) in methanol (5 ml). The mixture was heated under reflux for 30 minutes and then was allowed to cool. The solvent was removed in vacuo, water (5 ml) was added and the aqueous solution was extracted with ethyl acetate (3×5 ml). The combined extracts were dried (MgSO4), filtered and concentrated in vacuo to afford the title compound (360 mg, 76%) as a crude oil which was used without further purification.

reactant | potassium hydroxide | 100 mg | [OH-].[K+]
reactant | N-[5-(3-hexyl-6-methyl-3-azabicyclo[3.1.0]hex-6-yl)-2-nitrophenyl]acetamide | 1.49 mmol, 534 mg | C(CCCCC)N1CC2C(C2C1)(C)C=1C=CC(=C(C1)NC(C)=O)[N+](=O)[O-] | C20H29N3O3
solvent | methanol | 5.0 ml | CO | CH4O
solvent | water | 2.0 ml | O | H2O
solvent | methanol | 5 ml | CO | CH4O
product | 5-(3-Hexyl-6-methyl-3-azabicyclo[3.1.0]hex-6-yl)-2-nitrophenylamine | 360 mg, 76% | C(CCCCC)N1CC2C(C2C1)(C)C=1C=CC(=C(C1)N)[N+](=O)[O-] | C18H27N3O2
